US04564476
b. 2,2-Dimethyl-3-(phenylmethoxy)-propionaldehyde
In a dry three-neck flask equipped with a mechanical stirrer and an addition funnel was placed 78.8 g (0.21 moles) of pyridinium dichromate, Aldrich Chemical, see Tetrahedron Lett., 399 (1979), ibid., 731, (1980) and 200 ml of dry CH2Cl2. The mixture was vigorously stirred and a solution of 26.8 g (0.138 mole) of 2,2-dimethyl-3-(phenylmethoxy)propanol, the product of Example 1a, in 50 ml of CH2Cl2 was added in one portion. The reaction was followed by gas liquid chromatography (GC) and required four days stirring at room temperature. The black brown reaction mixture was poured into 200 ml ethyl ether and the mixture was filtered through a dry silica gel column to obtain a colorless solution. Removal of solvent gave a residue which was distilled through a vigreux column to obtain the title compound, a colorless liquid, bp 72°-75°/0.02 mmHg.

reactant | pyridinium dichromate | 0.21 moles, 78.8 g | [Cr](=O)(=O)([O-])O[Cr](=O)(=O)[O-].[NH+]1=CC=CC=C1.[NH+]1=CC=CC=C1
reactant | 2,2-dimethyl-3-(phenylmethoxy)propanol | 0.138 mole, 26.8 g | CC(CO)(COCC1=CC=CC=C1)C | C12H18O2
reactant | ethyl ether | 200 ml | C(C)OCC | C4H10O
solvent | CH2Cl2 | 50 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 200 ml | C(Cl)Cl | CH2Cl2
product | 2,2-Dimethyl-3-(phenylmethoxy)-propionaldehyde | CC(C=O)(COCC1=CC=CC=C1)C | C12H16O2
